US06531502B1
Manganese dioxide (10 equiv.) was added to a solution of [3-(3-dimethylaminopropyl)-1H-indol-2-yl]methanol (2.2 g) in DCM. The mixture was stirred at room temperature for 18 hr. Insoluble materials were removed by filtration and the filtrate was concentrated. The residue was column chromatographed to give 3-(3-dimethylaminopropyl)-1H-indole-2-carbaldehyde as a cream-colored solid.

reactant | [3-(3-dimethylaminopropyl)-1H-indol-2-yl]methanol | 2.2 g | CN(CCCC1=C(NC2=CC=CC=C12)CO)C | C14H20N2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | 10 equiv. | [O-2].[O-2].[Mn+4]
product | 3-(3-dimethylaminopropyl)-1H-indole-2-carbaldehyde | CN(CCCC1=C(NC2=CC=CC=C12)C=O)C | C14H18N2O
